US03957783
A mixture of 500 mg of 2-amino-3-(o-fluorobenzoyl)thiophene, 760 mg of ethyl carbamate and 46 mg of zinc chloride is heated at 200°C for 1 hour. After cooling, the reaction mixture is washed with chloroform and filtered to give crystals, which are disolved in acetone and filtered. The filtrate is condensed under reduced pressure to give 4-(o-fluorophenyl)-1,2-dihydrothieno[2,3-d]pyrimidin-2-one as crystals having a melting point of 254° - 256°C. Recrystallization from acetone gives crystals having a melting point of 278° - 279°C (decomp.)

reactant | 2-amino-3-(o-fluorobenzoyl)thiophene | 500 mg | NC=1SC=CC1C(C1=C(C=CC=C1)F)=O | C11H8FNOS
reactant | ethyl carbamate | 760 mg | C(N)(OCC)=O | C3H7NO2
solvent | acetone | CC(=O)C | C3H6O
catalyst | zinc chloride | 46 mg | [Cl-].[Zn+2].[Cl-]
product | 4-(o-fluorophenyl)-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | FC1=C(C=CC=C1)C=1C2=C(NC(N1)=O)SC=C2 | C12H7FN2OS
